US09193689B2
4-cyanobenzoylchloride (200 mg, 1.21 mmol) was dissolved in anhydrous CH2Cl2 (4 mL) and cooled to 0° C. Methyl-(1-methyl-piperidin-4-ylmethyl)-amine (172 mg, 1.21 mmol) in anhydrous CH2Cl2 (1 mL) was added followed by N,N-diisopropylethylamine (0.63 mL, 3.62 mmol). The reaction mixture was allowed to warm to RT over 2 h. The reaction mixture was concentrated in vacuo and the crude product purified by reverse phase preparative HPLC-MS to obtain 4-cyano-N-methyl-N-(1-methyl-piperidin-4-ylmethyl)-benzamide as an off-white solid (213 mg, 65%).

reactant | 4-cyanobenzoylchloride | 1.21 mmol, 200 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | Methyl-(1-methyl-piperidin-4-ylmethyl)-amine | 1.21 mmol, 172 mg | CNCC1CCN(CC1)C | C8H18N2
reactant | N,N-diisopropylethylamine | 3.62 mmol, 0.63 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-cyano-N-methyl-N-(1-methyl-piperidin-4-ylmethyl)-benzamide | 213 mg, 65% | C(#N)C1=CC=C(C(=O)N(CC2CCN(CC2)C)C)C=C1 | C16H21N3O
